US07598391B2
{2-[3-Cyclohexyl-3-(tetrahydro-pyran 4-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid methyl ester
Prepared as described in general procedure (D) using 3-(5-bromo-thiazol-2-yl)-1-cyclohexyl-1-(tetrahydro-pyran-4-yl)-urea and methyl thioglycolate

reactant | 3-(5-bromo-thiazol-2-yl)-1-cyclohexyl-1-(tetrahydro-pyran-4-yl)-urea | BrC1=CN=C(S1)NC(N(C1CCOCC1)C1CCCCC1)=O | C15H22BrN3O2S
reactant | methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
product | {2-[3-Cyclohexyl-3-(tetrahydro-pyran 4-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid methyl ester | COC(CSC1=CN=C(S1)NC(=O)N(C1CCOCC1)C1CCCCC1)=O | C18H27N3O4S2
